US06579883B1
8-Chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 2.20 g (6.5 mmol) of 5-tert-butoxycarbonyl-8-chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 10 ml of dichloromethane is mixed with 10 ml of trifluoroacetic acid at room temperature. After 2 hours, the batch is diluted with water and ethyl acetate. The organic phase is separated, washed with water, saturated NaHCO3 and saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography of the residue on silica gel with hexane-ethyl acetate yields 0.83 g of product.

reactant | 5-tert-butoxycarbonyl-8-chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 6.5 mmol, 2.20 g | C(C)(C)(C)OC(=O)N1C(C2(C(C=3C=C(C=CC13)Cl)CCC2)F)=O | C17H19ClFNO3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Chloro-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.83 g | ClC1=CC=2C3C(C(NC2C=C1)=O)(CCC3)F | C12H11ClFNO
